US09382243B2
1-(4-bromophenyl)-4-(cyclopropylsulfonyl)piperazine
1-(4-bromophenyl)piperazine (1 g, 4.15 mmol) was dissolved in DCM (40 ml) and cooled in 0° C. Then DMAP (0.051 g, 0.415 mmol), triethylamine (0.723 ml, 5.18 mmol), and cyclopropanesulfonyl chloride (0.641 g, 4.56 mmol) were added. The reaction was stirred 1 h at rt, then diluted with DCM and saturated NH4Cl/water (1:1). The aqueous phase was separated, extracted with DCM (×2) and the combined extracts were washed with brine, dried over Na2SO4, filtered and concentrated to give the desired product. LC-MS: calculated for C13H17BrN2O2S 346.02 observed m/e: 346.88 (M+H)+ (Rt 1.16/2 min).

reactant | 1-(4-bromophenyl)piperazine | 4.15 mmol, 1 g | BrC1=CC=C(C=C1)N1CCNCC1 | C10H13BrN2
reactant | triethylamine | 5.18 mmol, 0.723 ml | C(C)N(CC)CC | C6H15N
reactant | cyclopropanesulfonyl chloride | 4.56 mmol, 0.641 g | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.415 mmol, 0.051 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NH4Cl water | [NH4+].[Cl-].O
product | 1-(4-bromophenyl)-4-(cyclopropylsulfonyl)piperazine | BrC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C1CC1 | C13H17BrN2O2S
